US05545755
1,2,3,4-Tetrahydro-8-methoxy-3-(2-propenyl)-2-oxo-naphthalene (F-4, Chart F)
To a solution of 10.3 g (37.6 mmol) of 1,2,3,4-tetrahydro-8-methoxy-2-oxo-3-(2-propenyl)-1-naphthalene carboxylic acid methyl ester in 26.3 mL of DMSO and 1.1 mL of water was added 1.9 g (45.1 mmol) of lithium chloride. The reaction mixture was heated at 125° C. (bath temperature) for five hours. TLC analysis showed no starting material remaining. The mixture was cooled to room temperature and extracted with ethyl acetate (1 L). The organic layer was washed with 10% aqueous calcium sulfate (an efficient way of removing DMSO from organic layer), dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by liquid chromatography on 800 g silica gel 60 (230-400 m), eluting with hexane-ethyl acetate (3:1), and collecting 40 mL fractions. Fractions 26-53 gave 7.65 g (94%) of pure title compound as a yellow oil.

reactant | 1,2,3,4-tetrahydro-8-methoxy-2-oxo-3-(2-propenyl)-1-naphthalene carboxylic acid methyl ester | 37.6 mmol, 10.3 g | COC(=O)C1C(C(CC2=CC=CC(=C12)OC)CC=C)=O | C16H18O4
reactant | lithium chloride | 45.1 mmol, 1.9 g | [Cl-].[Li+]
solvent | DMSO | 26.3 mL | CS(=O)C | C2H6OS
solvent | water | 1.1 mL | O | H2O
product | 1,2,3,4-Tetrahydro-8-methoxy-3-(2-propenyl)-2-oxo-naphthalene | 7.65 g, 94% | COC=1C=CC=C2CC(C(CC12)=O)CC=C | C14H16O2
